US04990521
A mixture of 4.5 parts of trans-4-amino-5-chloro-N-(3-hydroxy-4-piperidinyl)-2-methoxybenzamide, 4 parts of sodium carbonate, 0.1 parts of potassium iodide and 120 parts of 4-methyl-2-pentanone was stirred for 1 hour at reflux using a water separator. 5.95 Parts of N-(dihydro-5-methyl-3,3-diphenyl-2(3H)-furanylidene)-N-methylmethanaminium bromide were added and stirring was continued for 1 hour at reflux. The organic layer was washed successively with water, a sodium carbonate solution in water and water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was dried in vacuo at 80° C., yielding 2.66 parts (30.6%) of trans-4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide; mp. 131.9° C. (compound 50).

reactant | trans-4-amino-5-chloro-N-(3-hydroxy-4-piperidinyl)-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@H]2[C@@H](CNCC2)O)C=C1Cl)OC | C13H18ClN3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | N-(dihydro-5-methyl-3,3-diphenyl-2(3H)-furanylidene)-N-methylmethanaminium bromide | [Br-].CC1CC(C(O1)=[N+](C)C)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | trans-4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide | 30.6% | NC1=CC(=C(C(=O)N[C@H]2[C@@H](CN(CC2)C(CC(C(=O)N(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C)O)C=C1Cl)OC | C32H39ClN4O4
